US07049310B2
a) N-(1H-indol-3-ylmethyl)-N-methylacrylamide
Acryloyl chloride (0.33 mL, 4.10 mmole) was added to a solution of 3-(methylaminomethyl)-1H-indole (0.60 g, 3.70 mmole) and Et3N (1.03 mL ,7.40 mmole) in CH2Cl2 (30 mL) at 0° C. The reaction was held at 0° C. for ten minutes, then was stirred overnight at RT. The solution was concentrated in vacuo and the residue was diluted with water. The solution was extracted with ethyl acetate, and the combined organic extracts were washed with brine and dried over Na2SO4. The title compound (0.64 g, 80%) was obtained as a light yellow solid: MS (ES) m/e 215 (M+H)+.

reactant | Acryloyl chloride | 4.10 mmole, 0.33 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | 3-(methylaminomethyl)-1H-indole | 3.70 mmole, 0.60 g | CNCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | Et3N | 7.40 mmole, 1.03 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(1H-indol-3-ylmethyl)-N-methylacrylamide | 0.64 g, 80% | N1C=C(C2=CC=CC=C12)CN(C(C=C)=O)C | C13H14N2O
